Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a pleasant ___ yo F pt with hx of ileal Crohn's
disease, ADPKD, HTN who presented to the ED early this morning
for abdominal pain, nausea, and vomiting.

Patient was at a wedding yesterday evening, when she experienced
acute onset of periumbilical abdominal pain, nausea, and 
vomiting
at around 9:45PM. She does not recall eating any undercooked/raw
foods except for salad. States that she was at her baseline 
state
of health until her symptoms began that evening, maybe except 
for
mildly decreased appetite. Denies any fevers or chills, recent
URI symptoms, sick contacts. no one else at the wedding had
similar symptoms. consumed 1.5 alcoholic drinks at the wedding.
no recent NSAID use. no recent ABx exposure. Periumbilical pain
does not radiate significantly, and is constant with fluctuating
severity, unsure if PO intake makes the pain worse/better since
she has not eaten recently. Sometimes worse with lying back and
better with sitting up in a hunched over position. She had 2 BM
since symptom onset, both soft/formed, with a "speck of blood."
Emesis has been nonbloody, nonbilious, mostly consisting of
undigested food products. States that her initial Crohn's
diagnosis was made in the setting of similar symptoms. Since
then, she has had "mild" crohn's flares which presented
predominantly with abdominal pain, and less nausea/vomiting
symptoms. Took Tylenol for pain at home without significant
benefit. 

In the ED, initial evaluation revealed normal lipase, lactate,
UA, LFTs, CRP. Elevated WBC to 12.2. ESR is pending at this 
time.
GI was consulted who recommended NPO/IVF, KUB, hepatitis B
serologies, Stool studies including culture and C.diff, and
quantiferon gold test. Holding off steroids until pt is seen by
GI. She was given IV morphine and Zofran prn for symptom 
control,
which made her feel better.

ROS: a 10 point ROS was performed and negative except per HPI
 
Past Medical History:
ADPKD
Crohn's ileitis, diagnosed in ___. First presented in ___
with abdominal pain, n/v. EGD with biopsies showed acute
duodenitis, and colonoscopy showed chronic active ileitis.
Started on budesonide, since tapered down to 3 mg daily. 
Followed
by Dr. ___ of ___
HTN
hx of iron deficiency anemia
Eczema
 
Social History:
___
Family History:
Reviewed and noncontributory to presenting complaint
 
Physical Exam:
Vitals: Temp 98, HR 74, BP 117/81, RR 16, 100% RA
Gen: WDWN female patient, sitting up, in mild distress
HEENT: NCAT
Eyes: EOMI
Neck: Supple, no JVD
CV: RRR no m/r/g
Lungs: CTAB
Abdomen: +BS, soft, nontender, nondistended, no rebound or
guarding
Extremities: No lower extremity edema, warm and well perfused
Neuro: A&Ox3, nonfocal, moves all four extremities
Psych: appropriate mood and affect
 
Pertinent Results:
___ 07:37AM BLOOD WBC-8.3 RBC-4.25 Hgb-10.5* Hct-33.2* 
MCV-78* MCH-24.7* MCHC-31.6* RDW-16.8* RDWSD-47.8* Plt ___
___ 07:37AM BLOOD Glucose-132* UreaN-4* Creat-0.5 Na-142 
K-3.9 Cl-106 HCO3-22 AnGap-14
___ 02:10AM BLOOD CRP-1.7
___ 02:10AM BLOOD Lipase-44
___ 02:31AM BLOOD Lactate-1.___ yo F pt with hx of ileal Crohn's disease on budesonide, 
ADPKD, HTN, who presents with abdominal pain, n/v

# Abdominal pain:
# Crohn's disease:  Initially concerning for Crohn's flare given 
similar presentations in the past, mildly elevated WBC, negative 
lipase, lactate, KUB. GI was consulted who recommended starting 
IV solumedrol 20 mg q8h. Due to nausea and vomiting, was slowly 
advanced from NPO to clears to regular. Patient had significant 
pain on the day of admission requiring IV pain medications, and 
nausea requiring IV Zofran. However, with starting IV steroids, 
her symptoms quickly improved. She was tolerating regular diet 
well without problems on the day of discharge. Other testing 
results include: hepatitis B immune (sAb positive, cAb neg, sAg 
neg), C diff testing cancelled in the setting of solid stool, 
RUQ U/S unremarkable for cholecystitis. CT A/P was performed to 
rule out Crohn's complications but was unremarkable, and did not 
show evidence of active Crohn's disease. Given patient's prompt 
clinical improvement, IV steroids were stopped and pt was 
transitioned back to home PO budesonide.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Budesonide 3 mg PO DAILY 
4. Desonide 0.05% Cream 1 Appl TP BID eczema 
5. Simethicone 40 mg PO QID:PRN abdominal cramping 
6. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
7. Cetirizine 10 mg PO DAILY:PRN allergy 
8. Flunisolide Inhaler 25 mcg nasal BID 
9. Hyoscyamine 0.125 mg SL TID:PRN abdominal cramping 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Budesonide 3 mg PO DAILY  
3.  Cetirizine 10 mg PO DAILY:PRN allergy  
4.  Desonide 0.05% Cream 1 Appl TP BID eczema  
5.  Flunisolide Inhaler 25 mcg nasal BID  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Hyoscyamine 0.125 mg SL TID:PRN abdominal cramping  
8.  Lisinopril 10 mg PO DAILY  
9.  Simethicone 40 mg PO QID:PRN abdominal cramping  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain 
Possible mild Crohns flare 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were treated for your abdominal pain, which could have been 
secondary to mild Crohn's flare. You were treated with IV 
steroids. Continue your home dose of budesonide after discharge 
and follow up with your gastroenterology.
 
Followup Instructions:
___